US08097623B2
(c) 2-Carboxymethyl-(3-chlorophenoxy)-1-(4-isopropoxyphenyl)indole-3-carboxylic acid
A mixture of 2-ethoxycarbonylmethyl-5-(3-chlorophenoxy)-1-(4-isopropoxyphenyl)indole-3-carboxylic acid ethyl ester (0.10 g, 0.19 mmol); see step (b) above), NaOH (0.10 g, 2.50 mmol), H2O (2.5 mL) and EtOH (2.5 mL) was heated at reflux for 2 h, cooled and acidified with HCl (aq, conc). The solid was collected and dried to afford the title compound. Yield 0.06 g (66%).

reactant | 2-ethoxycarbonylmethyl-5-(3-chlorophenoxy)-1-(4-isopropoxyphenyl)indole-3-carboxylic acid ethyl ester | 0.19 mmol, 0.10 g | C(C)OC(=O)C1=C(N(C2=CC=C(C=C12)OC1=CC(=CC=C1)Cl)C1=CC=C(C=C1)OC(C)C)CC(=O)OCC | C30H30ClNO6
reactant | NaOH | 2.50 mmol, 0.10 g | [OH-].[Na+]
reactant | H2O | 2.5 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | 2-Carboxymethyl-(3-chlorophenoxy)-1-(4-isopropoxyphenyl)indole-3-carboxylic acid | C(=O)(O)CC=1N(C2=CC=CC(=C2C1C(=O)O)OC1=CC(=CC=C1)Cl)C1=CC=C(C=C1)OC(C)C | C26H22ClNO6
